US07626056B2
A mixture of 6-chloro-N-({1-(cyclopropylmethyl)-4-[(cyclopropylmethyl)sulfonyl]cyclohexyl}methyl)-2-(trifluoromethyl)nicotinamide (37 mg, 0.076 mmol), zinc cyanide (44 mg, 0.38 mmol) and tetrakis triphenylphosphine palladium (0) (8.7 mg, 0.008 mmol) in N,N-dimethylformamide (1.5 mL) was heated at 150° C. for 600 s under microwave irradiation. The mixture was allowed to cool to ambient temperature, the supernatent layer removed and evaporated. The residue was partitioned between dichloromethane (5 ml) and water (5 ml) and stirred vigerously for 5 min. The mixture separated using a 5 micron PTFE frit and the filtrate was evaporated. The yellow oil was purified by preparative plate chromatography eluting with 10% ethyl acetate in dichloromethane. Collecting the appropriate band followed by trituation with ethyl acetate, filtration of the solid and evaporation of the filtrate gave a white solid. The solid was recrystallised from ethyl acetate/isohexane which gave 6-cyano-N-({1-(cyclopropylmethyl)-4-[(cyclopropylmethyl)sulfonyl]cyclohexyl}methyl)-2-(trifluoromethyl)-nicotinamide a white solid (21 mg, 57%): 1H NMR (400MHz, CDCl3) δ 8.11 (1H, d, J=7.9 Hz), 7.95 (1H, d, J=7.9 Hz), 5.98 (1H, s), 3.61 (2H, d, J=6.3 Hz), 2.98-2.88 (3H, m), 2.04-2.01 (2H, m), 1.96-1.84 (4H, m), 1.43-1.37 (2H, m), 1.24 (2H, d, J=6.7 Hz), 1.18-1.12 (1H, m), 0.76 (2H, q, J=6.4 Hz), 0.68-0.64 (1H, m), 0.53-0.49 (2H, m), 0.41 (2H, q, J=5.3 Hz), 0.06-0.05 (2H, m); m/z=484 (M+H+).

reactant | 6-chloro-N-({1-(cyclopropylmethyl)-4-[(cyclopropylmethyl)sulfonyl]cyclohexyl}methyl)-2-(trifluoromethyl)nicotinamide | 0.076 mmol, 37 mg | ClC1=NC(=C(C(=O)NCC2(CCC(CC2)S(=O)(=O)CC2CC2)CC2CC2)C=C1)C(F)(F)F | C22H28ClF3N2O3S
reactant | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.38 mmol, 44 mg | [C-]#N.[Zn+2].[C-]#N
product | 6-cyano-N-({1-(cyclopropylmethyl)-4-[(cyclopropylmethyl)sulfonyl]cyclohexyl}methyl)-2-(trifluoromethyl)-nicotinamide | C(#N)C1=NC(=C(C(=O)NCC2(CCC(CC2)S(=O)(=O)CC2CC2)CC2CC2)C=C1)C(F)(F)F | C23H28F3N3O3S
